US07666871B2
2-Biphenyl-4-yl-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole
The title compound is prepared in a manner substantially analogous to example 133 starting from phenyl boronic acid (174 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 16 mg (16%). MS (m/e) 347.3 (M+1)

reactant | phenyl boronic acid | 1.43 mmol, 174 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 2-Biphenyl-4-yl-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | C1(=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C)C1=CC=CC=C1 | C23H26N2O
